US05475024
[{1-(1,3-Benzodioxol-5-yl)-1-methylpropyl}thio]acetic acid
50 ml of benzene, 1.29 g of mercaptoacetic acid and a catalytic amount of p-toluenesulfonic acid monohydrate were added to 2.27 g of 2-(1,3-benzodioxol-5-yl)-2-butanol (crude oil). The obtained mixture was heated under reflux for 11 hours and cooled, followed by the addition of benzene. The obtained mixture was washed with water, followed by the addition of a 1N aqueous solution of sodium hydroxide. The alkaline layer was separated, washed with ethyl acetate, acidified with concentrated hydrochloric acid and extrated with chloroform. The organic layer was washed with water, dried over anhydrous magnesium sulfate and filtered. The filtrate was distilled to remove the solvent. The residue was purified by silica gel column chromatography (chloroform) to obtain 1.11 g of the title compound as a colorless oil.

reactant | mercaptoacetic acid | 1.29 g | SCC(=O)O | C2H4O2S
reactant | p-toluenesulfonic acid monohydrate | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | 2-(1,3-benzodioxol-5-yl)-2-butanol | 2.27 g | O1COC2=C1C=CC(=C2)C(C)(CC)O | C11H14O3
solvent | benzene | C1=CC=CC=C1 | C6H6
solvent | benzene | 50 ml | C1=CC=CC=C1 | C6H6
product | [{1-(1,3-Benzodioxol-5-yl)-1-methylpropyl}thio]acetic acid | 1.11 g | O1COC2=C1C=CC(=C2)C(CC)(C)SCC(=O)O | C13H16O4S
